simulator lang=spectre
global 0

ahdl_include "./dut/dc_aware_adc3bit.va"

Vin (vin 0) vsource type=pwl wave=[0n -0.02 1n -0.02 1.02n 0.14 3n 0.14 3.02n 0.31 5n 0.31 5.02n 0.58 7n 0.58 7.02n 0.76 9n 0.76 9.02n 0.92 11n 0.92 11.02n 1.08]
XDUT (vin d2 d1 d0) dc_aware_adc3bit

simulatorOptions options evas_profile=balanced

tran tran stop=13n maxstep=10p
save vin d2 d1 d0
